US09422271B2
Urea (12 g, 200 mmol) was added to EtOH (300 mL) containing NaOC2H5 previously prepared from sodium (5.52 g, 240 mmol, 1.2 eq). Diethyl 2-(ethoxymethylene)malonate (43.2 g, 200 mmol, 1.0 eq) was added and the solution was stirred at 20° C. for 24 h, and then stirred at 90° C. for 24 h. The alcohol was removed by reduced pressure distillation. Ice-water (100 mL) was added to dissolve the residue. The product was precipitated by adding cold dilute hydrochloric acid. The solid was filtered off to afford ethyl 2,4-dioxo-1,2,3,4-tetrahydropyrimidine-5-carboxylate (8.5 g, 23%), which was used in next step without further purification.

reactant | Urea | 200 mmol, 12 g | NC(=O)N | CH4N2O
reactant | NaOC2H5 | CC[O-].[Na+]
reactant | sodium | 240 mmol, 5.52 g, 1.2 eq | [Na] | Na
reactant | Diethyl 2-(ethoxymethylene)malonate | 200 mmol, 43.2 g, 1.0 eq | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
solvent | EtOH | 300 mL | CCO | C2H6O
product | ethyl 2,4-dioxo-1,2,3,4-tetrahydropyrimidine-5-carboxylate | 8.5 g, 23% | O=C1NC=C(C(N1)=O)C(=O)OCC | C7H8N2O4
